US05068325
14a) 2-Amino-6-(3-(3-pyridyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepin
Prepared from 3-(3-pyridyl)acrolein and 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine by reductive amination with sodium cyanoborohydride. Yield: 40% of theory, Melting point: 162°-165° C.

reactant | 3-(3-pyridyl)acrolein | N1=CC(=CC=C1)C=CC=O | C8H7NO
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 2-Amino-6-(3-(3-pyridyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepin | Yield: 40% | NC=1SC=2CCN(CCC2N1)CC=CC=1C=NC=CC1 | C15H18N4S
